US08937150B2
tert-butyl-4-fluoro-4-phenylpiperidine-1-carboxylate
A solution of diethylaminosulfur trifluoride (4 mL, 32.7 mmol) in dichloromethane (10 mL) was added to a cold (−78° C.; dry ice/acetone bath) solution of tert-butyl 4-hydroxy-4-phenylpiperidine-1-carboxylate (8.05 g, 29.0 mmol) in dichloromethane (100 mL) under nitrogen. The reaction was stirred at −78° C. for ˜1 hour. The reaction was removed from the bath and warmed to ambient temperature then stirred another 30 minutes. The reaction was quenched with saturated aqueous NaHCO3 (100 mL). The organic fraction was washed with brine (˜50 mL). Then 3-chloroperoxybenzoic acid (1.0995 g, 6.37 mmol) was added to the reaction and stirred at ambient temperature for 30 minutes. This step was quenched with saturated aqueous NaHCO3 (100 mL). The organic fraction was washed with saturated aqueous NaHCO3 (1×100 mL), water (1×100 mL), and brine (1×100 mL), dried (MgSO4), tested for peroxide (3-10 ppm) and concentrated to light yellow oil. The oil was dried under vacuum to afford 8.27 g (100%) of the titled compound. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.42 (d, J=5.7, 9H), 1.96-1.85 (m, 3.5H), 2.03 (ddd, J=5.2, 13.3, 17.8, 1.5H), 3.06 (s, 2H), 3.98 (d, J=12.0, 2H), 7.33 (d, J=7.1, 1H), 7.46-7.36 (m, 4H); MS (DCI) m/z 280 (M+H+, 60%), 297 (M+NH4+, 100%).

reactant | diethylaminosulfur trifluoride | 32.7 mmol, 4 mL | C(C)N(CC)S(F)(F)F | C4H10F3NS
reactant | dry ice acetone | C(=O)=O.CC(=O)C
reactant | tert-butyl 4-hydroxy-4-phenylpiperidine-1-carboxylate | 29.0 mmol, 8.05 g | OC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=CC=C1 | C16H23NO3
reactant | 3-chloroperoxybenzoic acid | 6.37 mmol, 1.0995 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | tert-butyl-4-fluoro-4-phenylpiperidine-1-carboxylate | 8.27 g, 100% | C(C)(C)(C)OC(=O)N1CCC(CC1)(C1=CC=CC=C1)F | C16H22FNO2
